US07572809B2
Similar procedure as described in example 10 was used, starting from [1-Chloro-6-fluoro-7-(2-methoxy-ethoxy)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine and ethanol to give [1,6-Diethoxy-7-(2-methoxy-ethoxy)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine. LC-MS m/e 387(MH+).

reactant | [1-Chloro-6-fluoro-7-(2-methoxy-ethoxy)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC(=C(C=C12)OCCOC)F)NC1=NNC(=C1)C | C16H16ClFN4O2
solvent | ethanol | C(C)O | C2H6O
product | [1,6-Diethoxy-7-(2-methoxy-ethoxy)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine | C(C)OC1=NC(=CC2=CC(=C(C=C12)OCCOC)OCC)NC1=NNC(=C1)C | C20H26N4O4
